US05093364
7-Fluoro-1H-3,1-benzoxazine-2,4-dione (2.0 g), sodium hydroxide (0.05 g) and 2-(trimethylsilyl)ethanol (1.31 g) were heated together at 100° for 30 minutes until effervescence ceased. After cooling, the residue was suspended in diisopropyl ether, then filtered and evaporated. The residue was recrystallised from petroleum ether to give 2-(trimethylsilyl)ethyl 4-fluoroanthranilate, mp 43°-44°. (Compound 20).

reactant | 7-Fluoro-1H-3,1-benzoxazine-2,4-dione | 2.0 g | FC1=CC2=C(C(OC(N2)=O)=O)C=C1 | C8H4FNO3
reactant | sodium hydroxide | 0.05 g | [OH-].[Na+]
reactant | 2-(trimethylsilyl)ethanol | 1.31 g | C[Si](CCO)(C)C | C5H14OSi
solvent | diisopropyl ether | C(C)(C)OC(C)C | C6H14O
product | 2-(trimethylsilyl)ethyl 4-fluoroanthranilate | FC=1C=C(C(C(=O)OCC[Si](C)(C)C)=CC1)N | C12H18FNO2Si
